US07902248B2
(4-Methylsulfanyl-phenyl)-oxo-acetic acid ethyl ester (1.09 g, 4.86 mmol) and oxone (8.96 g, 14.6 mmol) were combined in a mixture of water (2.2 mL) and methanol (22 mL) and stirred for 16 h. The volatiles were evaporated in vacuo and the residue was treated with water (50 mL) and extracted with ethyl acetate (3×50 mL). The combined organic phases were dried over magnesium sulfate and evaporated in vacuo. The residue was purified by flash column chromatography (Merck silica gel 60, 40-63 μm; 33% ethyl acetate/hexanes) to afford (4-methanesulfonyl-phenyl)-oxo-acetic acid ethyl ester as a white solid (261 mg, 21%): H1-NMR (400 MHz, CDCl3) δ=1.46 (3H, t, J=7.1 Hz), 3.10 (3H, s), 4.48 (2H, q, J=7.1 Hz), 8.09 (2H, m), 8.23 (2H, m).

reactant | (4-Methylsulfanyl-phenyl)-oxo-acetic acid ethyl ester | 4.86 mmol, 1.09 g | C(C)OC(C(=O)C1=CC=C(C=C1)SC)=O | C11H12O3S
reactant | oxone | 14.6 mmol, 8.96 g | OOS(=O)[O-].[K+]
reactant | methanol | 22 mL | CO | CH4O
solvent | water | 2.2 mL | O | H2O
product | (4-methanesulfonyl-phenyl)-oxo-acetic acid ethyl ester | 261 mg, 21% | C(C)OC(C(=O)C1=CC=C(C=C1)S(=O)(=O)C)=O | C11H12O5S
